US08791123B2
Step B: Preparation of (R)-(5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)(3-methoxyazetidin-1-yl)methanone
To a DMF (0.3 mL) solution of (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I, 30 mg, 0.092 mmol) and HATU (42 mg, 0.11 mmol) was added 3-methoxyazetidine 2,2,2-trifluoroacetate (22 mg, 0.11 mmol), followed by dropwise addition of DIEA (0.048 mL, 0.27 mmol). After stirring for 30 minutes at ambient temperature, the reaction was directly purified by reverse-phase chromatography (5 to 50% acetonitrile/water) to yield the final product as white solid (25 mg, 69%). LCMS (apci) m/z=397.1 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.092 mmol, 30 mg | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | HATU | 0.11 mmol, 42 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-methoxyazetidine 2,2,2-trifluoroacetate | 0.11 mmol, 22 mg | FC(C(=O)O)(F)F.COC1CNC1
reactant | DIEA | 0.27 mmol, 0.048 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | (R)-(5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)(3-methoxyazetidin-1-yl)methanone | 25 mg, 69% | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)N2CC(C2)OC | C20H21FN6O2
